US04243681
Reaction of the epichlorohydrin derivative of 4-(isopropylthio)phenol (5.0 g., 0.022 mole) with cyclohexylethylamine (3.3 g., 0.026 mole) according to the procedure of Example 2(b) and crystallization of the crude product from isopropyl alcohol affords an 18% yield of analytically pure 1-[(2-cyclohexylethyl)amino]-3-[4-[(1-methylethyl)thio]phenoxy]-2-propanol hydrochloride, m.p. 180°-182° (corr.).

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 4-(isopropylthio)phenol | 0.022 mole, 5.0 g | C(C)(C)SC1=CC=C(C=C1)O | C9H12OS
reactant | cyclohexylethylamine | 0.026 mole, 3.3 g | C1(CCCCC1)CCN | C8H17N
product | 1-[(2-cyclohexylethyl)amino]-3-[4-[(1-methylethyl)thio]phenoxy]-2-propanol hydrochloride | 18% yield | Cl.C1(CCCCC1)CCNCC(COC1=CC=C(C=C1)SC(C)C)O | InChI=1S/C20H33NO2S.ClH/c1-16(2)24-20-10-8-19(9-11-20)23-15-18(22)14-21-13-12-17-6-4-3-5-7-17;/h8-11,16-18,21-22H,3-7,12-15H2,1-2H3;1H
